US06137003
Methyl 2-amino-3,5-dimethylbenzoate (7.0 g, 0.039 mol) and ethylene oxide (10 g, 0.23 mol) were dissolved in 150 mL acetic acid to form a reaction mixture. The mixture was stirred at room temperature for 19 hours. and then concentrated to about 100 mL on a rotary evaporator, diluted with H2O (300 mL), and extracted with chloroform (5×200 mL). The organic extract was concentrated to give the intermediate methyl 2-bis(2'-hydroxyethyl)amino-3,5-dimethylbenzoate as an off-white oil (10.0 g, 96%). 1H NMR (300 MHz, CDCl3): 7.31 (br s, 1H), 7.16 (br s, 1H), 3.91 (s, 3H), 3.73 (m, 2H), 3.63 (m, 2H), 3.26 (br m, 4H), 2.32 (s, 3H), 2.30 (s, 3H).

reactant | Methyl 2-amino-3,5-dimethylbenzoate | 0.039 mol, 7.0 g | NC1=C(C(=O)OC)C=C(C=C1C)C | C10H13NO2
reactant | ethylene oxide | 0.23 mol, 10 g | C1CO1 | C2H4O
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | methyl 2-bis(2'-hydroxyethyl)amino-3,5-dimethylbenzoate | 10.0 g, 96% | OCCN(C1=C(C(=O)OC)C=C(C=C1C)C)CCO | C14H21NO4
